US03966946
A mixture of acetoacetic acid (3-benzyloxy-2-propyl) ester (23.8 g), o-trifluoromethylbenzaldehyde (8.7 g.) and concentrated ammonia (10.0 ml. of density 0.88) in ethanol (200 ml) was stirred under reflux for 24 hours and then poured into ice and water. The yellow oil which precipitated was separated and purified by column chromatography to give as a pale yellow oil 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine-3,5-dicarboxylic acid bis(3-benzyloxy-2-propyl)ester (24.8 g).

reactant | acetoacetic acid (3-benzyloxy-2-propyl) ester | 23.8 g | C(C1=CC=CC=C1)OCC(C)OC(CC(=O)C)=O | C14H18O4
reactant | o-trifluoromethylbenzaldehyde | 8.7 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | ammonia | 10.0 ml | N | H3N
reactant | water | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine-3,5-dicarboxylic acid bis(3-benzyloxy-2-propyl)ester | 24.8 g | C(C1=CC=CC=C1)OCC(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C(F)(F)F)C(=O)OC(C)COCC1=CC=CC=C1)C)C | C36H38F3NO6
